US05104992
24.1 g (0.1 mol) of 2-(2'-hydroxy-5'-methylphenyl)benzotriazole-N-oxide, 0.125 g of 5% palladium carbon, 150 ml of a solvent mixture comprising toluene and water (ratio by volume, 4:1) and 7 g of 50% dimethylamine were charged into a 500-ml four neck flask. After the air in the flask had been replaced by nitrogen, the resultant mixture was agitated at room temperature. Hydrogen was then supplemented to allow for the amount of hydrogen absorbed by the mixture, which was then subjected to reaction until no more hydrogen was absorbed by it. After the reaction had been completed, the catalyst was filtered off, and part of the filtrate was subjected to quantitative analysis using gas chromatography (GC). The results revealed a yield of 89% of 2-(2'-hydroxy-5'-methylphenyl)benzotriazole. The solvent was then distilled off from the filtrate, and the residual solid was crystallized using ethanol and then washed with ethanol to obtain 18 g of 2-(2'-hydroxy-5'-methylphenyl) benzotriazole (yield, 80%; melting point, 128° to 130° C.).

reactant | 2-(2'-hydroxy-5'-methylphenyl)benzotriazole-N-oxide | 0.1 mol, 24.1 g | OC1=C(C=C(C=C1)C)N1N=C2C(=[N+]1[O-])C=CC=C2 | C13H11N3O2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | dimethylamine | 7 g | CNC | C2H7N
reactant | Hydrogen | [H][H] | H2
catalyst | palladium carbon | 0.125 g | [C].[Pd]
solvent | water | O | H2O
product | 2-(2'-hydroxy-5'-methylphenyl)benzotriazole | yield of 89% | OC1=C(C=C(C=C1)C)N1N=C2C(=N1)C=CC=C2 | C13H11N3O
